US07595415B2
Synthesis of 1,1′-[(1Z,3Z)-2,3-diisocyano-1,3-butadiene-1,4-diyl]bis[methoxybenzene] (xanthocillin X dimethyl ether)
1,1′-[(1Z,3Z)-2,3-diformylamino-1,3-butadiene-1,4-diyl]bis[methoxybenzene] (11.0 mg, 0.031 mmol) prepared in Reference Synthetic Example 4 was suspended in chloroform (200 μl) and pyridine (200 μl), and a dichloromethane solution of phosphorus oxychloride (6.4 μl, 0.069 mmol) was dropwise added under cooling with ice. After stirring for 45 minutes, the suspension was diluted with ethyl acetate, and poured into a saturated sodium hydrogen carbonate aqueous solution. Extraction with ethyl acetate was carried out twice, and the obtained organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1) to give the desired compound 1,1′-[(1Z,3Z)-2,3-diisocyano-1,3-butadiene-1,4-diyl]bis[methoxybenzene] (xanthocillin X dimethyl ether) (5.8 mg, 59%) as pale green crystals.

reactant | 1,1′-[(1Z,3Z)-2,3-diformylamino-1,3-butadiene-1,4-diyl]bis[methoxybenzene] | 0.031 mmol, 11.0 mg | C(=O)N\C(=C/C1=C(C=CC=C1)OC)\C(=C\C1=C(C=CC=C1)OC)\NC=O | C20H20N2O4
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | phosphorus oxychloride | 0.069 mmol, 6.4 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 200 μl | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 200 μl | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1′-[(1Z,3Z)-2,3-diisocyano-1,3-butadiene-1,4-diyl]bis[methoxybenzene] | 5.8 mg, 59% | [N+](#[C-])\C(=C/C1=C(C=CC=C1)OC)\C(=C\C1=C(C=CC=C1)OC)\[N+]#[C-] | C20H16N2O2
